US04000052
530 g of p-xylene in 5 liters of CCl4 were chlorinated in the nucleus in the presence of 10 g of FeCl3 by passing chlorine over the reaction solution while stirring the latter, at a pressure of 0.06 atmospheres excess pressure, with the exclusion of light. The first half of the amount of chlorine calculated for dimethyltetrachlorobenzene was introduced into the gas chamber of the reaction vessel while the liquid phase was at a temperature of 20° C, the remainder at 40° C. The reaction time was 3 hours 30 minutes. Then, while the gas chamber in the reaction vessel was irradiated with a 250-watt mercury vapor lamp, the side-chain chlorination was performed at a liquid phase temperature of 70° C and at 0.06 atmospheres excess pressure; this required 6 hours. The total chlorine consumption was 110% of the calculated amount, with respect to xylene. After the solution cooled, 154 g of a substance crystallized, of which 75% consisted of 1,4-di-(chloromethyl)-2,3,5,6-tetrachlorobenzene. The crystallizate was suction filtered and the filtrate was stirred with 400 g of calcium hydroxide, thereby rendering the solution neutral and free of iron. The calcium hydroxide containing iron and chloride was removed on a suction filter and, after removing the CCl4 by distillation, the solution was fractionated in a packed column at 12 Torr. The main fraction distilled at 179°-193° C. 1055 g of 1-methyl-4-chloromethyl-2,3,5,6-tetrachlorobenzene was obtained in a purity of 87.6% (yield 66.7%). After recrystallization from 1,2-dichloroethane, the product had a purity of 98.9% and melted at 11°-113°C.

reactant | p-xylene | 530 g | CC=1C=CC(=CC1)C | C8H10
reactant | chlorine | ClCl | Cl2
reactant | dimethyltetrachlorobenzene | CC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)C | C8H6Cl4
reactant | CCl4 | 5 liters | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | mercury | [Hg] | Hg
product | 1-methyl-4-chloromethyl-2,3,5,6-tetrachlorobenzene | 1055 g, yield 66.7% | CC1=C(C(=C(C(=C1Cl)Cl)CCl)Cl)Cl | C8H5Cl5
